US07253171B2
(S)-2-Amino-3-[4-(3-cyano[1,6]naphthyridin-2-ylamino)phenyl]propionic acid methyl ester hydrochloride
(S)-2-tert-Butoxycarbonylamino-3-[4-(3-cyano[1,6]naphthyridin-2-ylamino)phenyl]propionic acid methyl ester (0.12 g) was disolved in dioxane (2 ml) and treated with saturated solution of hydrogen chloride in dioxane (2 ml) for 2 h at room temperature. The solvent was removed under reduced pressure to yield the title compound (0.1 g, 96%) as a white solid.

reactant | (S)-2-tert-Butoxycarbonylamino-3-[4-(3-cyano[1,6]naphthyridin-2-ylamino)phenyl]propionic acid methyl ester | 0.12 g | COC([C@H](CC1=CC=C(C=C1)NC1=NC2=CC=NC=C2C=C1C#N)NC(=O)OC(C)(C)C)=O | C24H25N5O4
reactant | hydrogen chloride | Cl | ClH
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | (S)-2-Amino-3-[4-(3-cyano[1,6]naphthyridin-2-ylamino)phenyl]propionic acid methyl ester hydrochloride | 0.1 g, 96% | Cl.COC([C@H](CC1=CC=C(C=C1)NC1=NC2=CC=NC=C2C=C1C#N)N)=O | InChI=1S/C19H17N5O2.ClH/c1-26-19(25)16(21)8-12-2-4-15(5-3-12)23-18-13(10-20)9-14-11-22-7-6-17(14)24-18;/h2-7,9,11,16H,8,21H2,1H3,(H,23,24);1H/t16-;/m0./s1
